US08729271B2
A solution of 2-bromo-3-fluoro-6-methylpyridine 1-oxide (585 mg) in acetic anhydride (4.98 mL) was stirred while heating at 120° C. for 4 hr. After returning the solution to room temperature, methanol (25 mL) was gradually added dropwise thereto. After the solvent was distilled off under reduced pressure, the acetic anhydride was evaporated with methanol. The resulting residue was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=88:12-0:100) to afford (6-bromo-5-fluoropyridin-2-yl)methyl acetate (269 mg).

reactant | 2-bromo-3-fluoro-6-methylpyridine 1-oxide | 585 mg | BrC1=[N+](C(=CC=C1F)C)[O-] | C6H5BrFNO
reactant | methanol | 25 mL | CO | CH4O
reactant | acetic anhydride | 4.98 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (6-bromo-5-fluoropyridin-2-yl)methyl acetate | 269 mg | C(C)(=O)OCC1=NC(=C(C=C1)F)Br | C8H7BrFNO2
